*======================================================================
* SPICE Model generated by Coilcraft
* Coilcraft Part Number : EPL2010-271
* Inductance = 270nH
*======================================================================
* Model Parameters:
*   Valid Frequency Range = 0.1MHz-300MHz
*   Ambient Temperature = 25 degC
*   Inductor Frequency Model
*   Use model for Frequency Domain simulations
*======================================================================
.subckt EPL2010-271_freq port1 port2 PARAMS: Cpar=0.95pF Ind=0.3uH
X1 port1 port2 Model1A PARAMS:
+ R1=140
+ R2=0.032
+ C= {Cpar}
+ K1=0.000001
+ K2=0.055
+ K3= {Ind}
+ K4=0.005
+ K5=0.00000996
+ L=2.9605E-07
+ Is=4.93993155
+ a=0.83164288
+ L_Z0=0
+ L_EL=0
+ L_F0=0E6
+ PkZ=667.09834
.ends EPL2010-271_freq

*======================================================================
* SPICE Model generated by Coilcraft
* Coilcraft Part Number : EPL2010-271
* Inductance = 270nH
*======================================================================
* Model Parameters:
*   Valid Frequency Range = 0.1MHz-300MHz
*   Ambient Temperature = 25 degC
*   Inductor Saturation Model
*   Use model for Time Domain simulations
*======================================================================
.subckt EPL2010-271_sat port1 port2 PARAMS: Cpar=0.823pF Ind=0.3uH
X1 port1 port2 Model1C PARAMS:
+ R1=140
+ R2=0.032
+ C= {Cpar}
+ K1=0.000001
+ K2=0.055
+ K3= {Ind}
+ K4=0.005
+ K5=0.00000996
+ L=2.9605E-07
+ Is=4.93993155
+ a=0.83164288
+ L_Z0=0
+ L_EL=0
+ L_F0=0E6
+ PkZ=667.09834
.ends EPL2010-271_sat

*======================================================================
* SPICE Model generated by Coilcraft
* Coilcraft Part Number : EPL2010-421
* Inductance = 420nH
*======================================================================
* Model Parameters:
*   Valid Frequency Range = 0.1MHz-200MHz
*   Ambient Temperature = 25 degC
*   Inductor Frequency Model
*   Use model for Frequency Domain simulations
*======================================================================
.subckt EPL2010-421_freq port1 port2 PARAMS: Cpar=1.02pF Ind=0.47uH
X1 port1 port2 Model1A PARAMS:
+ R1=100
+ R2=0.04
+ C= {Cpar}
+ K1=0.00002
+ K2=0.076
+ K3= {Ind}
+ K4=0.009
+ K5=0.00000996
+ L=4.3857E-07
+ Is=3.99980586
+ a=0.83966171
+ L_Z0=0
+ L_EL=0
+ L_F0=0E6
+ PkZ=922.687147
.ends EPL2010-421_freq

*======================================================================
* SPICE Model generated by Coilcraft
* Coilcraft Part Number : EPL2010-421
* Inductance = 420nH
*======================================================================
* Model Parameters:
*   Valid Frequency Range = 0.1MHz-200MHz
*   Ambient Temperature = 25 degC
*   Inductor Saturation Model
*   Use model for Time Domain simulations
*======================================================================
.subckt EPL2010-421_sat port1 port2 PARAMS: Cpar=0.869pF Ind=0.47uH
X1 port1 port2 Model1C PARAMS:
+ R1=100
+ R2=0.04
+ C= {Cpar}
+ K1=0.00002
+ K2=0.076
+ K3= {Ind}
+ K4=0.009
+ K5=0.00000996
+ L=4.3857E-07
+ Is=3.99980586
+ a=0.83966171
+ L_Z0=0
+ L_EL=0
+ L_F0=0E6
+ PkZ=922.687147
.ends EPL2010-421_sat

*======================================================================
* SPICE Model generated by Coilcraft
* Coilcraft Part Number : EPL2010-681
* Inductance = 680nH
*======================================================================
* Model Parameters:
*   Valid Frequency Range = 0.1MHz-200MHz
*   Ambient Temperature = 25 degC
*   Inductor Frequency Model
*   Use model for Frequency Domain simulations
*======================================================================
.subckt EPL2010-681_freq port1 port2 PARAMS: Cpar=1.19pF Ind=0.68uH
X1 port1 port2 Model1A PARAMS:
+ R1=120
+ R2=0.058
+ C= {Cpar}
+ K1=0.00002
+ K2=0.16
+ K3= {Ind}
+ K4=0.013
+ K5=0.0000099
+ L=6.409E-07
+ Is=3.41863138
+ a=0.73999769
+ L_Z0=0
+ L_EL=0
+ L_F0=0E6
+ PkZ=1445.0931
.ends EPL2010-681_freq

*======================================================================
* SPICE Model generated by Coilcraft
* Coilcraft Part Number : EPL2010-681
* Inductance = 680nH
*======================================================================
* Model Parameters:
*   Valid Frequency Range = 0.1MHz-200MHz
*   Ambient Temperature = 25 degC
*   Inductor Saturation Model
*   Use model for Time Domain simulations
*======================================================================
.subckt EPL2010-681_sat port1 port2 PARAMS: Cpar=1.02pF Ind=0.68uH
X1 port1 port2 Model1C PARAMS:
+ R1=120
+ R2=0.058
+ C= {Cpar}
+ K1=0.00002
+ K2=0.16
+ K3= {Ind}
+ K4=0.013
+ K5=0.0000099
+ L=6.409E-07
+ Is=3.41863138
+ a=0.73999769
+ L_Z0=0
+ L_EL=0
+ L_F0=0E6
+ PkZ=1445.0931
.ends EPL2010-681_sat

*======================================================================
* SPICE Model generated by Coilcraft
* Coilcraft Part Number : EPL2010-821
* Inductance = 820nH
*======================================================================
* Model Parameters:
*   Valid Frequency Range = 0.1MHz-200MHz
*   Ambient Temperature = 25 degC
*   Inductor Frequency Model
*   Use model for Frequency Domain simulations
*======================================================================
.subckt EPL2010-821_freq port1 port2 PARAMS: Cpar=1.39pF Ind=0.82uH
X1 port1 port2 Model1A PARAMS:
+ R1=46
+ R2=0.068
+ C= {Cpar}
+ K1=0.000001
+ K2=0.16
+ K3= {Ind}
+ K4=0.015
+ K5=0.0000099
+ L=7.5933E-07
+ Is=2.9895764
+ a=0.97612152
+ L_Z0=0
+ L_EL=0
+ L_F0=0E6
+ PkZ=1713.64518
.ends EPL2010-821_freq

*======================================================================
* SPICE Model generated by Coilcraft
* Coilcraft Part Number : EPL2010-821
* Inductance = 820nH
*======================================================================
* Model Parameters:
*   Valid Frequency Range = 0.1MHz-200MHz
*   Ambient Temperature = 25 degC
*   Inductor Saturation Model
*   Use model for Time Domain simulations
*======================================================================
.subckt EPL2010-821_sat port1 port2 PARAMS: Cpar=1.204pF Ind=0.82uH
X1 port1 port2 Model1C PARAMS:
+ R1=46
+ R2=0.068
+ C= {Cpar}
+ K1=0.000001
+ K2=0.16
+ K3= {Ind}
+ K4=0.015
+ K5=0.0000099
+ L=7.5933E-07
+ Is=2.9895764
+ a=0.97612152
+ L_Z0=0
+ L_EL=0
+ L_F0=0E6
+ PkZ=1713.64518
.ends EPL2010-821_sat

*======================================================================
* SPICE Model generated by Coilcraft
* Coilcraft Part Number : EPL2010-102
* Inductance = 1uH
*======================================================================
* Model Parameters:
*   Valid Frequency Range = 0.1MHz-200MHz
*   Ambient Temperature = 25 degC
*   Inductor Frequency Model
*   Use model for Frequency Domain simulations
*======================================================================
.subckt EPL2010-102_freq port1 port2 PARAMS: Cpar=1.23pF Ind=1uH
X1 port1 port2 Model1A PARAMS:
+ R1=80
+ R2=0.086
+ C= {Cpar}
+ K1=0.000001
+ K2=0.18
+ K3= {Ind}
+ K4=0.019
+ K5=0.0000099
+ L=9.8145E-07
+ Is=3.0087724
+ a=0.7499863
+ L_Z0=0
+ L_EL=0
+ L_F0=0E6
+ PkZ=1785.34649
.ends EPL2010-102_freq

*======================================================================
* SPICE Model generated by Coilcraft
* Coilcraft Part Number : EPL2010-102
* Inductance = 1uH
*======================================================================
* Model Parameters:
*   Valid Frequency Range = 0.1MHz-200MHz
*   Ambient Temperature = 25 degC
*   Inductor Saturation Model
*   Use model for Time Domain simulations
*======================================================================
.subckt EPL2010-102_sat port1 port2 PARAMS: Cpar=1.06pF Ind=1uH
X1 port1 port2 Model1C PARAMS:
+ R1=80
+ R2=0.086
+ C= {Cpar}
+ K1=0.000001
+ K2=0.18
+ K3= {Ind}
+ K4=0.019
+ K5=0.0000099
+ L=9.8145E-07
+ Is=3.0087724
+ a=0.7499863
+ L_Z0=0
+ L_EL=0
+ L_F0=0E6
+ PkZ=1785.34649
.ends EPL2010-102_sat

*======================================================================
* SPICE Model generated by Coilcraft
* Coilcraft Part Number : EPL2010-152
* Inductance = 1.5uH
*======================================================================
* Model Parameters:
*   Valid Frequency Range = 0.1MHz-200MHz
*   Ambient Temperature = 25 degC
*   Inductor Frequency Model
*   Use model for Frequency Domain simulations
*======================================================================
.subckt EPL2010-152_freq port1 port2 PARAMS: Cpar=1.39pF Ind=1.5uH
X1 port1 port2 Model1A PARAMS:
+ R1=48
+ R2=0.141
+ C= {Cpar}
+ K1=0.000001
+ K2=0.32
+ K3= {Ind}
+ K4=0.022
+ K5=0.0000099
+ L=1.3643E-06
+ Is=2.31525118
+ a=0.90999282
+ L_Z0=0
+ L_EL=0
+ L_F0=0E6
+ PkZ=2948.38527
.ends EPL2010-152_freq

*======================================================================
* SPICE Model generated by Coilcraft
* Coilcraft Part Number : EPL2010-152
* Inductance = 1.5uH
*======================================================================
* Model Parameters:
*   Valid Frequency Range = 0.1MHz-200MHz
*   Ambient Temperature = 25 degC
*   Inductor Saturation Model
*   Use model for Time Domain simulations
*======================================================================
.subckt EPL2010-152_sat port1 port2 PARAMS: Cpar=1.247pF Ind=1.5uH
X1 port1 port2 Model1C PARAMS:
+ R1=48
+ R2=0.141
+ C= {Cpar}
+ K1=0.000001
+ K2=0.32
+ K3= {Ind}
+ K4=0.022
+ K5=0.0000099
+ L=1.3643E-06
+ Is=2.31525118
+ a=0.90999282
+ L_Z0=0
+ L_EL=0
+ L_F0=0E6
+ PkZ=2948.38527
.ends EPL2010-152_sat

*======================================================================
* SPICE Model generated by Coilcraft
* Coilcraft Part Number : EPL2010-222
* Inductance = 2.2uH
*======================================================================
* Model Parameters:
*   Valid Frequency Range = 0.1MHz-100MHz
*   Ambient Temperature = 25 degC
*   Inductor Frequency Model
*   Use model for Frequency Domain simulations
*======================================================================
.subckt EPL2010-222_freq port1 port2 PARAMS: Cpar=1.27pF Ind=2.2uH
X1 port1 port2 Model1A PARAMS:
+ R1=48
+ R2=0.202
+ C= {Cpar}
+ K1=0.000001
+ K2=0.37
+ K3= {Ind}
+ K4=0.03
+ K5=0.0000099
+ L=2.0255E-06
+ Is=2.43791613
+ a=0.59486157
+ L_Z0=0
+ L_EL=0
+ L_F0=0E6
+ PkZ=3324.65451
.ends EPL2010-222_freq

*======================================================================
* SPICE Model generated by Coilcraft
* Coilcraft Part Number : EPL2010-222
* Inductance = 2.2uH
*======================================================================
* Model Parameters:
*   Valid Frequency Range = 0.1MHz-100MHz
*   Ambient Temperature = 25 degC
*   Inductor Saturation Model
*   Use model for Time Domain simulations
*======================================================================
.subckt EPL2010-222_sat port1 port2 PARAMS: Cpar=1.151pF Ind=2.2uH
X1 port1 port2 Model1C PARAMS:
+ R1=48
+ R2=0.202
+ C= {Cpar}
+ K1=0.000001
+ K2=0.37
+ K3= {Ind}
+ K4=0.03
+ K5=0.0000099
+ L=2.0255E-06
+ Is=2.43791613
+ a=0.59486157
+ L_Z0=0
+ L_EL=0
+ L_F0=0E6
+ PkZ=3324.65451
.ends EPL2010-222_sat

*======================================================================
* SPICE Model generated by Coilcraft
* Coilcraft Part Number : EPL2010-332
* Inductance = 3.3uH
*======================================================================
* Model Parameters:
*   Valid Frequency Range = 0.1MHz-100MHz
*   Ambient Temperature = 25 degC
*   Inductor Frequency Model
*   Use model for Frequency Domain simulations
*======================================================================
.subckt EPL2010-332_freq port1 port2 PARAMS: Cpar=1.49pF Ind=3.3uH
X1 port1 port2 Model1A PARAMS:
+ R1=42
+ R2=0.272
+ C= {Cpar}
+ K1=0.00003
+ K2=0.72
+ K3= {Ind}
+ K4=0.03
+ K5=0.0000099
+ L=3.1485E-06
+ Is=1.92328328
+ a=0.64636686
+ L_Z0=0
+ L_EL=0
+ L_F0=0E6
+ PkZ=5503.48536
.ends EPL2010-332_freq

*======================================================================
* SPICE Model generated by Coilcraft
* Coilcraft Part Number : EPL2010-332
* Inductance = 3.3uH
*======================================================================
* Model Parameters:
*   Valid Frequency Range = 0.1MHz-100MHz
*   Ambient Temperature = 25 degC
*   Inductor Saturation Model
*   Use model for Time Domain simulations
*======================================================================
.subckt EPL2010-332_sat port1 port2 PARAMS: Cpar=1.401pF Ind=3.3uH
X1 port1 port2 Model1C PARAMS:
+ R1=42
+ R2=0.272
+ C= {Cpar}
+ K1=0.00003
+ K2=0.72
+ K3= {Ind}
+ K4=0.03
+ K5=0.0000099
+ L=3.1485E-06
+ Is=1.92328328
+ a=0.64636686
+ L_Z0=0
+ L_EL=0
+ L_F0=0E6
+ PkZ=5503.48536
.ends EPL2010-332_sat

*======================================================================
* SPICE Model generated by Coilcraft
* Coilcraft Part Number : EPL2010-472
* Inductance = 4.7uH
*======================================================================
* Model Parameters:
*   Valid Frequency Range = 0.1MHz-100MHz
*   Ambient Temperature = 25 degC
*   Inductor Frequency Model
*   Use model for Frequency Domain simulations
*======================================================================
.subckt EPL2010-472_freq port1 port2 PARAMS: Cpar=1.47pF Ind=4.7uH
X1 port1 port2 Model1A PARAMS:
+ R1=50
+ R2=0.429
+ C= {Cpar}
+ K1=0.00003
+ K2=1
+ K3= {Ind}
+ K4=0.038
+ K5=0.0000099
+ L=4.4663E-06
+ Is=1.71809727
+ a=0.68830922
+ L_Z0=0
+ L_EL=0
+ L_F0=0E6
+ PkZ=6975.18431
.ends EPL2010-472_freq

*======================================================================
* SPICE Model generated by Coilcraft
* Coilcraft Part Number : EPL2010-472
* Inductance = 4.7uH
*======================================================================
* Model Parameters:
*   Valid Frequency Range = 0.1MHz-100MHz
*   Ambient Temperature = 25 degC
*   Inductor Saturation Model
*   Use model for Time Domain simulations
*======================================================================
.subckt EPL2010-472_sat port1 port2 PARAMS: Cpar=1.394pF Ind=4.7uH
X1 port1 port2 Model1C PARAMS:
+ R1=50
+ R2=0.429
+ C= {Cpar}
+ K1=0.00003
+ K2=1
+ K3= {Ind}
+ K4=0.038
+ K5=0.0000099
+ L=4.4663E-06
+ Is=1.71809727
+ a=0.68830922
+ L_Z0=0
+ L_EL=0
+ L_F0=0E6
+ PkZ=6975.18431
.ends EPL2010-472_sat

*======================================================================
* SPICE Model generated by Coilcraft
* Coilcraft Part Number : EPL2010-682
* Inductance = 6.8uH
*======================================================================
* Model Parameters:
*   Valid Frequency Range = 0.1MHz-100MHz
*   Ambient Temperature = 25 degC
*   Inductor Frequency Model
*   Use model for Frequency Domain simulations
*======================================================================
.subckt EPL2010-682_freq port1 port2 PARAMS: Cpar=1.39pF Ind=6.8uH
X1 port1 port2 Model1A PARAMS:
+ R1=50
+ R2=0.512
+ C= {Cpar}
+ K1=0.00003
+ K2=1.2
+ K3= {Ind}
+ K4=0.044
+ K5=0.0000098
+ L=6.1287E-06
+ Is=1.41826382
+ a=0.69766656
+ L_Z0=0
+ L_EL=0
+ L_F0=0E6
+ PkZ=7979.60767
.ends EPL2010-682_freq

*======================================================================
* SPICE Model generated by Coilcraft
* Coilcraft Part Number : EPL2010-682
* Inductance = 6.8uH
*======================================================================
* Model Parameters:
*   Valid Frequency Range = 0.1MHz-100MHz
*   Ambient Temperature = 25 degC
*   Inductor Saturation Model
*   Use model for Time Domain simulations
*======================================================================
.subckt EPL2010-682_sat port1 port2 PARAMS: Cpar=1.334pF Ind=6.8uH
X1 port1 port2 Model1C PARAMS:
+ R1=50
+ R2=0.512
+ C= {Cpar}
+ K1=0.00003
+ K2=1.2
+ K3= {Ind}
+ K4=0.044
+ K5=0.0000098
+ L=6.1287E-06
+ Is=1.41826382
+ a=0.69766656
+ L_Z0=0
+ L_EL=0
+ L_F0=0E6
+ PkZ=7979.60767
.ends EPL2010-682_sat

*======================================================================
* SPICE Model generated by Coilcraft
* Coilcraft Part Number : EPL2010-822
* Inductance = 8.2uH
*======================================================================
* Model Parameters:
*   Valid Frequency Range = 0.1MHz-100MHz
*   Ambient Temperature = 25 degC
*   Inductor Frequency Model
*   Use model for Frequency Domain simulations
*======================================================================
.subckt EPL2010-822_freq port1 port2 PARAMS: Cpar=1.72pF Ind=8.2uH
X1 port1 port2 Model1A PARAMS:
+ R1=50
+ R2=0.827
+ C= {Cpar}
+ K1=0.000001
+ K2=1.74
+ K3= {Ind}
+ K4=0.048
+ K5=0.0000098
+ L=8.2386E-06
+ Is=0.92824907
+ a=0.69434277
+ L_Z0=0
+ L_EL=0
+ L_F0=0E6
+ PkZ=10167.4723
.ends EPL2010-822_freq

*======================================================================
* SPICE Model generated by Coilcraft
* Coilcraft Part Number : EPL2010-822
* Inductance = 8.2uH
*======================================================================
* Model Parameters:
*   Valid Frequency Range = 0.1MHz-100MHz
*   Ambient Temperature = 25 degC
*   Inductor Saturation Model
*   Use model for Time Domain simulations
*======================================================================
.subckt EPL2010-822_sat port1 port2 PARAMS: Cpar=1.659pF Ind=8.2uH
X1 port1 port2 Model1C PARAMS:
+ R1=50
+ R2=0.827
+ C= {Cpar}
+ K1=0.000001
+ K2=1.74
+ K3= {Ind}
+ K4=0.048
+ K5=0.0000098
+ L=8.2386E-06
+ Is=0.92824907
+ a=0.69434277
+ L_Z0=0
+ L_EL=0
+ L_F0=0E6
+ PkZ=10167.4723
.ends EPL2010-822_sat

*======================================================================
* SPICE Model generated by Coilcraft
* Coilcraft Part Number : EPL2010-103
* Inductance = 10uH
*======================================================================
* Model Parameters:
*   Valid Frequency Range = 0.1MHz-100MHz
*   Ambient Temperature = 25 degC
*   Inductor Frequency Model
*   Use model for Frequency Domain simulations
*======================================================================
.subckt EPL2010-103_freq port1 port2 PARAMS: Cpar=1.54pF Ind=10uH
X1 port1 port2 Model1A PARAMS:
+ R1=45
+ R2=0.914
+ C= {Cpar}
+ K1=0.000001
+ K2=1.93
+ K3= {Ind}
+ K4=0.048
+ K5=0.0000098
+ L=9.1552E-06
+ Is=0.77463051
+ a=0.96772556
+ L_Z0=0
+ L_EL=0
+ L_F0=0E6
+ PkZ=11377.0315
.ends EPL2010-103_freq

*======================================================================
* SPICE Model generated by Coilcraft
* Coilcraft Part Number : EPL2010-103
* Inductance = 10uH
*======================================================================
* Model Parameters:
*   Valid Frequency Range = 0.1MHz-100MHz
*   Ambient Temperature = 25 degC
*   Inductor Saturation Model
*   Use model for Time Domain simulations
*======================================================================
.subckt EPL2010-103_sat port1 port2 PARAMS: Cpar=1.496pF Ind=10uH
X1 port1 port2 Model1C PARAMS:
+ R1=45
+ R2=0.914
+ C= {Cpar}
+ K1=0.000001
+ K2=1.93
+ K3= {Ind}
+ K4=0.048
+ K5=0.0000098
+ L=9.1552E-06
+ Is=0.77463051
+ a=0.96772556
+ L_Z0=0
+ L_EL=0
+ L_F0=0E6
+ PkZ=11377.0315
.ends EPL2010-103_sat

*======================================================================
* SPICE Model generated by Coilcraft
* Coilcraft Saturation Inductor Model
*======================================================================
* Model Parameters:
*   Valid Frequency Range Varies by Inductor
*   Ambient Temperature = 25 degC
*   Current Saturable Inductor Model
*======================================================================
.subckt Model1C Lin Lout PARAMS:
+ R1=1
+ R2=1
+ C=1
+ L=1
+ Is=1
+ a=1
+ PkZ=94.2 * {L} *1e6
R2 Lin N001 {R2}
R3 N001 Lout {PkZ}
C1 N001 N002 {C}
R1 N002 Lout {R1}
L1 N001 Lout flux={L*Is}*pwrs(tanh(pwrs((x/{Is}),{a})),{1/a})
.ends Model1C





*======================================================================
* SPICE Model generated by Coilcraft
* Coilcraft Power Inductor Model
*======================================================================
* Model Parameters:
*   Valid Frequency Range Varies by Inductor
*   Ambient Temperature = 25 degC
*   DC Bias Current = 0 A
*   Frequency Dependent Inductor Model
*======================================================================
.subckt Model1A Lin Lout PARAMS:
+ R1=1
+ R2=1
+ C=1
+ K1=1
+ K2=1
+ K3=1
+ K4=1
+ K5=1
R2 N001 Lin {R2}
R1 Lout N002 {R1}
C1 N002 N001 {C}
G_Rvar2 N001 Lout LAPLACE { V(N001, Lout) } {1/K2/(-S*S/4/PI^2)^0.25}
G_Rvar1 N001 N003 LAPLACE { V(N001, N003) } {1/K1/(-S*S/4/PI^2)^0.25}
G_Lvar N003 Lout  LAPLACE { V(N003, Lout) } {1/(S*1e-6*({K3*1e6}-({K4}*LOG({K5}*(sqrt(-S*S)/(2*pi))))))}
*This large resistance to ground has been added to prevent a floating node error
R3 N003 0 100Meg
.ends Model1A


.subckt Coilcraft_Inductor Lin Lout
R1 Lout Lin 100Meg
.ends Coilcraft_Inductor
